US08222245B2
1,1-Dimethylethyl 9-hydroxy-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A suspension of 2,3,4,5-tetrahydro-1,4-benzoxazepin-9-ol. hydrobromide (Preparation 85) (55.7 g, 226 mmol) in dichloromethane (DCM) (550 ml) was treated with triethylamine (47.3 ml, 339 mmol) and stirred for 20 minutes. This mixture was cooled in ice/water to ca 5° C. and treated slowly with a solution of BOC2O (59.6 ml, 249 mmol) in dichloromethane (DCM) (200 ml) at such a rate as to keep the internal temperature below 10° C. When the addition was complete, the mixture was allowed to warm to room temperature, stirred for 2 hours and allowed to stand at room temperature overnight. The mixture was washed with 0.5M hydrochloric acid (2×250 ml) and water (250 ml), dried (sodium sulphate) and evaporated to give the title compound as a pale brown solid (60.5 g)

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-9-ol. hydrobromide | 226 mmol, 55.7 g | Br.O1CCNCC2=C1C(=CC=C2)O
reactant | triethylamine | 339 mmol, 47.3 ml | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 249 mmol, 59.6 ml | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 550 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 9-hydroxy-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 60.5 g | OC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H19NO4
